US04507298
6-{4-[2-(1-Imidazolyl)-ethyl]-phenyl}-3-oxo-2,3,4,5-tetrahydro-pyridazine
A mixture of 7.5 g of 4-{4-[2-(1-imidazolyl)-ethyl]-phenyl}-4-oxo-butyric acid methyl ester, 0.2 g of barium oxide, 1.3 g of hydrazine hydrate and 30 ml of ethanol is stirred at 0° C. for 10 minutes and then at room temperature for 2 hours, and is subsequently heated under reflux for 1 hour. The reaction mixture is diluted with water and extracted with chloroform and the extract is washed with water and dried over Na2SO4. The solvent is stripped off and the residue is purified by column chromatography (silica gel/chloroform/methanol).

reactant | 4-{4-[2-(1-imidazolyl)-ethyl]-phenyl}-4-oxo-butyric acid methyl ester | 7.5 g | COC(CCC(=O)C1=CC=C(C=C1)CCN1C=NC=C1)=O | C16H18N2O3
reactant | barium oxide | 0.2 g | [O-2].[Ba+2]
reactant | hydrazine hydrate | 1.3 g | O.NN
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 6-{4-[2-(1-Imidazolyl)-ethyl]-phenyl}-3-oxo-2,3,4,5-tetrahydro-pyridazine | N1(C=NC=C1)CCC1=CC=C(C=C1)C=1CCC(NN1)=O | C15H16N4O
